US20010053776A1
a) 3-Bromo-4-[3-(tert-butyldimethylsilanyloxy)propyl]pyridine
Imidazole (19.4 g, 285.9 mmol) was added to a solution of 3-bromo-4-(3-hydroxypropyl)pyridine (47.5 g, 219.9 mmol) in dry dichloromethane (250 ml) followed by tert-butyldimethylsilyl chloride (34.8 g, 230.9 mmol) and the reaction mixture stirred at room temperature for 17 hours. The reaction mixture was washed with water (3×200 ml), dried (MgSO4) and concentrated in vacuo to a colourless oil (72.5 g; 99.8%): 1H NMR (400 MHz, CDCl3) δ 0.07 (s, 6H), 0.84 (s, 9H), 1.75-1.78 (m, 2H), 2.71-2.75 (m, 2H), 3.60 (t, J=6, 2H), 7.10 (d, J=5, 1H), 8.32 (d, J=5, iH), 8.57 (s, 1H). m/z (ES+) 330, 332 M++H).

reactant | Imidazole | 285.9 mmol, 19.4 g | N1C=NC=C1 | C3H4N2
reactant | 3-bromo-4-(3-hydroxypropyl)pyridine | 219.9 mmol, 47.5 g | BrC=1C=NC=CC1CCCO | C8H10BrNO
reactant | tert-butyldimethylsilyl chloride | 230.9 mmol, 34.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-[3-(tert-butyldimethylsilanyloxy)propyl]pyridine | BrC=1C=NC=CC1CCCO[Si](C)(C)C(C)(C)C | C14H24BrNOSi
